datasets/10k_Mayr_OG.csv
SMILES Labelled
"C[N:12](C)[C:11](=[N:10]CC1=CC=CC=C1)[N:62](C)C.O=[N+]([O-])[C:43]1=[CH:42][C:21]([N+:22](=[O:23])[O-:33])=[CH:20][S:44]1>>C[N+:12](C)=[C:11]([N:10](CC1=CC=CC=C1)[CH:20]1[C:21](=[N+:22]([O-:23])[O-:33])[CH:42]=[C:43]([N+](=O)[O-])[S:44]1)[N:62](C)C 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C1=CC=C([N:31]=[C:20]=[O:21])C=C1.CC12C3(C)C4(C)C5(C)C1(C)[Os-2:11]2345(C#[O+])(C#[O+])[H:10]>>C1=CC=C([N:31]=[C:20]([H:10])[O-:21])C=C1.CC12C3(C)C4(C)C5(C)C1(C)[Os-:11]2345(C#[O+])C#[O+] 10,11=10,20;20,21=21"
"CC1=CC=[C:10]([B-:11]23[N+:62](C)(C[C:73](=[O:74])[O:72]2)C[C:83](=[O:84])[O:82]3)O1.F[C:34]1=[CH:33][CH:32]=[C:31]([C+:20]([C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1>>CC1=CC=[C:10]([C:20]([C:31]2=[CH:32][CH:33]=[C:34](F)[CH:35]=[CH:36]2)([C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)O1.C[N+:62]12C[C:73](=[O:74])[O:72][B:11]1[O:82][C:83](=[O:84])C2 10,11=10,20"
"CC(C)(C1=CC=CC=C1)[O:21][S:20]C(F)(F)F.C[N:14](C)[C:13]1=[CH:12][CH:11]=[N:10][CH:61]=[CH:62]1>>CC(C)(C1=CC=CC=C1)[O-:21].C[N+:14](C)=[C:13]1[CH:12]=[CH:11][N:10]([S:20]C(F)(F)F)[CH:61]=[CH:62]1 10,11=10,20;12,13=11,12;14=13,14;20,21=21"
"CCCC[O:61][P:10]([O:71]CCCC)[O:81]CCCC.C[N+:21](C)=[CH:20]Cl>>CCCC[O:61][P+:10]([CH:20](Cl)[N:21](C)C)([O:71]CCCC)[O:81]CCCC 10=20;20,21=21"
"CC[O:61]/[C:11](=[C:10](/[C:72](=[O:73])[O:83]CC)[C:91]1=[CH:92][CH:93]=[C:94]([N+:95](=[O:96])[O-:97])[CH:103]=[CH:102]1)[O-:12].CN1CC[C:20](=[O:21])CC1>>CC[O:61][C:11]([C:10]([C:20]1([O-:21])CCN(C)CC1)([C:72](=[O:73])[O:83]CC)[C:91]1=[CH:92][CH:93]=[C:94]([N+:95](=[O:96])[O-:97])[CH:103]=[CH:102]1)=[O:12] 10,11=10,20;12=11,12;20,21=21"
"CN(C)[C:34]1=[CH:33][CH:32]=[C:31](/[CH:20]=[C:21]2/C3=CC=CC=C3[N+:23](C)=[CH:22]2)[CH:36]=[CH:35]1.FC(F)(F)[S:61]([CH-:10][C:81]1=[CH:82][CH:83]=[C:84]([C:85]#[N:86])[CH:93]=[CH:92]1)(=[O:62])=[O:72]>>CN(C)[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([CH:10]([S:61](C(F)(F)F)(=[O:62])=[O:72])[C:81]2=[CH:82][CH:83]=[C:84]([C:85]#[N:86])[CH:93]=[CH:92]2)[C:21]2=[CH:22][N:23](C)C3=CC=CC=C32)[CH:36]=[CH:35]1 10=20;20,21=21,22;22,23=23"
"CC[O:82][C:71]([C-:10](C1CCCCC1)[C:61](=[O:62])[O:112]CC)=[O:72].CN1C(=O)C(CC2=CC=CC=C2)/[N+:23](=[CH:22]/[CH:21]=[CH:20]/[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)C1C(C)(C)C>>CC[O:82][C:71]([C:10](C1CCCCC1)([CH:20]([CH:21]=[CH:22][N:23]1C(CC2=CC=CC=C2)C(=O)N(C)C1C(C)(C)C)[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)[C:61](=[O:62])[O:112]CC)=[O:72] 10=20;20,21=21,22;22,23=23"
"CC1(C)[O:64][C:13]([O-:14])=[C:12]([CH:11]([H:10])[C:92]2=[CH:93][CH:94]=[CH:95][CH:104]=[CH:103]2)[C:73](=[O:74])[O:84]1.C[C:34]1=[CH:33][CH:32]=[C:31]([CH+:20][C:41]2=[CH:42][CH:43]=[C:44](OC3=CC=CC=C3)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1>>CC1(C)[O:64][C:13](=[O:14])[C:12](=[CH:11][C:92]2=[CH:93][CH:94]=[CH:95][CH:104]=[CH:103]2)[C:73](=[O:74])[O:84]1.C[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([H:10])[C:41]2=[CH:42][CH:43]=[C:44](OC3=CC=CC=C3)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1 10,11=10,20;12,13=11,12;14=13,14"
"[CH+:20]([C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)[CH:41]=[CH:42][C:53]1=[CH:54][CH:55]=[CH:56][CH:57]=[CH:58]1.[CH:10](=[N+:11]=[N-:12])[C:61]1=[CH:62][CH:63]=[C:64]([N+:65](=[O:66])[O-:86])[CH:73]=[CH:72]1>>[CH:10]([N+:11]#[N:12])([CH:20]([C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)[CH:41]=[CH:42][C:53]1=[CH:54][CH:55]=[CH:56][CH:57]=[CH:58]1)[C:61]1=[CH:62][CH:63]=[C:64]([N+:65](=[O:66])[O-:86])[CH:73]=[CH:72]1 10,11=10,20;12=11,12"
C1=C[C:71]2=[C:72](C=C1)[N:62]=[N:61][N-:10]2.CO[C:34]1=[CH:33][CH:32]=[C:31]([CH+:20][C:41]2=[CH:42][CH:43]=[C:44](OC)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1>>CO[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([N:10]2[N:61]=[N:62][C:72]3=[C:71]2C=CC=C3)[C:41]2=[CH:42][CH:43]=[C:44](OC)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1 10=20
"C1=CC=C([C:22]([CH:21]=[CH2:20])=[O:23])C=C1.CC(C)[O:72][C:61]([S-:10])=[S:62]>>CC(C)[O:72][C:61]([S:10][CH2:20][CH:21]=[C:22](C1=CC=CC=C1)[O-:23])=[S:62] 10=20;20,21=21,22;22,23=23"
"C[N:33](C)[C:22]([CH:21]=[CH2:20])=[O:23].C[Zr:11]12345678([CH3:10])(C9C1C21C=CC=CC13C94)C1C5C62C=CC=CC27C18>>C[N:33](C)[C:22](=[CH:21][CH2:20][CH3:10])[O-:23].C[Zr+:11]12345678(C9C1C21C=CC=CC13C94)C1C5C62C=CC=CC27C18 10,11=10,20;20,21=21,22;22,23=23"
"CO[C:34]1=[CH:33][CH:32]=[C:31](/[CH:20]=[C:21](\C[N+]23CCC(CC2)CC3)[C:22](C)=[O:23])[CH:43]=[CH:44]1.[O+]#C[Mo-3:11]1234(C#[O+])([P+](C5CCCCC5)(C5CCCCC5)C5CCCCC5)([H:10])C5C1C2C3C54>>CO[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([H:10])[C:21](C[N+]23CCC(CC2)CC3)=[C:22](C)[O-:23])[CH:43]=[CH:44]1.[O+]#C[Mo-2:11]1234(C#[O+])([P+](C5CCCCC5)(C5CCCCC5)C5CCCCC5)C5C1C2C3C54 10,11=10,20;20,21=21,22;22,23=23"
